US08022218B2
(a). N-(3-Cyano-pyridin-2-yl)-methanesulfonamide
A mixture of 2-chloro-nicotinonitrile (2 g), H2NSO2Me (1.73 g) and K2CO3 (4.44 g) in DMF (100 ml) was stirred at 100° C. for 18 h. The reaction mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with water and brine. The organic layer was separated, dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel in dichloromethane/methanol=98/2 (v/v) as eluent. Yield: 1.32 g. MS-ESI: [M+H]+=198.2

reactant | 2-chloro-nicotinonitrile | 2 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | H2NSO2Me | 1.73 g | NS(=O)(=O)C | CH5NO2S
reactant | K2CO3 | 4.44 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-(3-Cyano-pyridin-2-yl)-methanesulfonamide | C(#N)C=1C(=NC=CC1)NS(=O)(=O)C | C7H7N3O2S
